US08053461B2
30 mL of anhydrous dimethyl sulfoxide was added to 0.98 g of sodium hydride defatted with hexane, and to the resulting solution, 2.98 g of dimethyl malonate was gradually added at room temperature while stirring. After completion of the dropwise addition, the resulting mixture was stirred at 100° C. for 1 hour. This mixture was cooled to room temperature, and 3 g (14 mmol) of ethyl 4-fluoro-3-nitrobenzoate was added thereto, and the resulting mixture was stirred at room temperature for 30 minutes and then further stirred at 100° C. for 1 hour. After the reaction mixture was cooled, saturated ammonium chloride was added thereto, and the resulting mixture was subjected to extraction with ethyl acetate. The obtained ethyl acetate layer was washed sequentially with saturated brine and water, dried over anhydrous sodium sulfate and then evaporated to dryness under reduced pressure, whereby ethyl 4-(di(methoxycarbonyl)methyl)-3-nitrobenzoate was obtained.

reactant | sodium hydride | 0.98 g | [H-].[Na+]
reactant | dimethyl malonate | 2.98 g | C(CC(=O)OC)(=O)OC | C5H8O4
reactant | ethyl 4-fluoro-3-nitrobenzoate | 14 mmol, 3 g | FC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H8FNO4
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | ethyl 4-(di(methoxycarbonyl)methyl)-3-nitrobenzoate | COC(=O)C(C1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-])C(=O)OC | C14H15NO8
